US04474700
NaSCH3 was prepared by distilling 24 g (0.50 mol) of methyl mercaptan into a stirred suspension of 24 g (0.50 mol) of 50% NaH/mineral oil in 170 ml of dimethyl sulfoxide over a 2-hr period. The mixture was charged into a 400-ml tube with 27 g (0.6 mol) of CO2 and 50 g (0.50 mol) of tetrafluoroethylene and shaken at 50° for 8 hrs. The reaction mixture was poured into a cold solution of 300 ml of concentrated HCl in 1 liter of water, and the resulting mixture was extracted continuously with ether. Removal of volatiles from the extracts at 5 mm gave 94.6 g of 3-methylthiotetrafluoropropionic acid. This acid was stirred at 85° to 95° while a mixture of 125 ml (about 1.2 mol) of 30% H2O2 and 75 ml of acetic acid was added dropwise over 2 hrs. The mixture was stirred at 90° to 95° for 3 hrs more, then evacuated at full pump to remove volatiles.

reactant | methyl mercaptan | 0.50 mol, 24 g | CS | CH4S
reactant | NaH | 0.50 mol, 24 g | [H-].[Na+]
reactant | CO2 | 0.6 mol, 27 g | C(=O)=O | CO2
reactant | tetrafluoroethylene | 0.50 mol, 50 g | FC(=C(F)F)F | C2F4
reactant | HCl | 300 ml | Cl | ClH
solvent | dimethyl sulfoxide | 170 ml | CS(=O)C | C2H6OS
solvent | water | 1 liter | O | H2O
product | 3-methylthiotetrafluoropropionic acid | 94.6 g | CSC(C(C(=O)O)(F)F)(F)F | C4H4F4O2S
